US07863314B2
A. 2-(2-Chlorobenzoyl)-3-phenylaminoacrylonitrile
A solution of 2-chlorobenzoylacetonitrile (1.0 g, 5.6 mmol, 1.0 eq) and diphenylformamidine (1.10 g, 5.6 mmol, 1.0 eq) in 50 mL of toluene was heated to 85° C. overnight. The heat source was removed and desired product slowly began to precipitate from solution. The resulting solid was filtered and dried to provide the desired product (826 mg, 52%). HPLC (4 minute 10-90 gradient) tR 3.13 min; MS m/z 283.2 [M+H]+.

reactant | 2-chlorobenzoylacetonitrile | 5.6 mmol, 1.0 g, 1.0 eq | ClC1=C(C(=O)CC#N)C=CC=C1 | C9H6ClNO
reactant | diphenylformamidine | 5.6 mmol, 1.10 g, 1.0 eq | C1(=CC=CC=C1)N(C=N)C1=CC=CC=C1 | C13H12N2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Chlorobenzoyl)-3-phenylaminoacrylonitrile | 826 mg, 52% | ClC1=C(C(=O)C(C#N)=CNC2=CC=CC=C2)C=CC=C1 | C16H11ClN2O
